US06680316B1
Preparation of 2-Benzyl-5,6-bis(4-methoxyphenyl)-4-ethoxycarbonyl-2H-pyridazin-3-one
Using 5,6-bis(4-methoxyphenyl)-4-ethoxycarbonyl-2H-pyridazin-3-one and benzyl chloride as starting materials, the procedures of Example 19 were repeated likewise, whereby the title compound was obtained in a yield of 99.1%.

reactant | 5,6-bis(4-methoxyphenyl)-4-ethoxycarbonyl-2H-pyridazin-3-one | COC1=CC=C(C=C1)C1=C(C(NN=C1C1=CC=C(C=C1)OC)=O)C(=O)OCC | C21H20N2O5
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 2-Benzyl-5,6-bis(4-methoxyphenyl)-4-ethoxycarbonyl-2H-pyridazin-3-one | yield of 99.1% | C(C1=CC=CC=C1)N1N=C(C(=C(C1=O)C(=O)OCC)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C28H26N2O5
